US06703347B2
Preparation of N-(4-chloro-3-ethylisothiazol-5-yl)-2-[2-(2-methylpropyl)benzothiazol-5-yl]propionamide
5-Amino-4-chloro-3-ethylisothiazole (0.81 g, 0.005 mol) was added to a suspension of sodium methoxide (0.56 g, 0.010 mol) in tetrahydrofuran (5 ml) and the mixture stirred at room temperature for 25 minutes. A solution of methyl 2-[2-(2-methylpropyl)benzothiazol-5-yl]propionate (1.15 g, 0.004 mol) in tetrahydrofuran (4 ml) was added dropwise and the mixture stirred at room temperature for 1½ hours. The mixture was diluted with saturated aqueous ammonium chloride solution and extracted with dichloromethane. The organic extract was dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated in vacuo. Trituration with diethyl ether gave the desired product (1.06 g).

reactant | 5-Amino-4-chloro-3-ethylisothiazole | 0.005 mol, 0.81 g | NC1=C(C(=NS1)CC)Cl | C5H7ClN2S
reactant | sodium methoxide | 0.010 mol, 0.56 g | C[O-].[Na+]
reactant | methyl 2-[2-(2-methylpropyl)benzothiazol-5-yl]propionate | 0.004 mol, 1.15 g | CC(CC=1SC2=C(N1)C=C(C=C2)C(C(=O)OC)C)C | C15H19NO2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | N-(4-chloro-3-ethylisothiazol-5-yl)-2-[2-(2-methylpropyl)benzothiazol-5-yl]propionamide | 1.06 g | ClC=1C(=NSC1NC(C(C)C=1C=CC2=C(N=C(S2)CC(C)C)C1)=O)CC | C19H22ClN3OS2
